US07776910B2
To a solution of (4-bromo-2-methyl-phenyl)-methanol (46.65 g, 0.2320 mol) in DCM (500 mL) at −15° C. was added mesyl chloride (20.65 mL, 0.2668 mol) followed by TEA (37.04 mL, 0.2668 mol). The reaction was stirred at −15° C. for 1.5 hour. A saturated solution of NH4Cl was then added at −15° C. and the resulting mixture was extracted with DCM. The organic phase was dried over MgSO4, filtered, and concentrated under reduced pressure to afford methanesulfonic acid 4-bromo-2-methyl-benzyl ester as a white solid in quantitative yield (65 g), which was used directly in step 3 without further purification.

reactant | (4-bromo-2-methyl-phenyl)-methanol | 0.2320 mol, 46.65 g | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
reactant | mesyl chloride | 0.2668 mol, 20.65 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 4-bromo-2-methyl-benzyl ester | quantitative yield | BrC1=CC(=C(COS(=O)(=O)C)C=C1)C | C9H11BrO3S
